US04210653
A mixture of 1.66 g. (10 mmole) of 4-(2,3-epoxy-1-propoxy)-phenol and 4.5 g. (30 mmole) of 1-methyl-2-phenoxyethylamine was heated at 90° C. for 3 hours. The residue was triturated with ether and filtered. Recrystallization from ethyl acetate to which a little methanol was added gave 1-(1-methyl-2-phenoxyethylamino)-3-(4-hydroxyphenoxy)-2-propanol; mp 173°-175° C.

reactant | 4-(2,3-epoxy-1-propoxy)-phenol | 10 mmole | O1C(COC2=CC=C(C=C2)O)C1 | C9H10O3
reactant | 1-methyl-2-phenoxyethylamine | 30 mmole | CC(COC1=CC=CC=C1)N | C9H13NO
product | 1-(1-methyl-2-phenoxyethylamino)-3-(4-hydroxyphenoxy)-2-propanol | CC(COC1=CC=CC=C1)NCC(COC1=CC=C(C=C1)O)O | C18H23NO4
